US09085555B2
Methanesulfonic acid 2-(1-carbamoyl-3-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indol-5-yloxy)-ethyl ester
To a solution of Example 453: 3-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-5-(2-hydroxy-ethoxy)-indole-1-carboxylic acid amide (45 mg, 0.08 mmol) and Et3N (56 μL, 0.41 mmol) in CH2Cl2 (1 mL) at 0° C. was added methanesulfonyl chloride (31 μL, 0.41 mmol) and the white suspension was stirred at RT under nitrogen overnight. Et3N (56 μL, 0.41 mmol) and methanesulfonyl chloride (31 μL, 0.41 mmol) were added and the mixture was further stirred for 1.5 h to complete the reaction. The reaction mixture was quenched by addition of saturated aqueous NaHCO3, extracted with CH2Cl2, dried (Na2SO4) and evaporated in vacuo. The crude residue was purified by column chromatography on silica gel (eluent: EtOAc to EtOAc/acetone 1-1). TLC, Rf (EtOAc)=0.2; MS (UPLC/MS): 607.4/609.3 [M+H]+, 629.2/631.2 [M+Na]+, 562.2/564.1 [M−CONH2]−, 651.3/653.3 [M+HCOO]−; tR (HPLC conditions f): 1.88 min.

reactant | 3-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-5-(2-hydroxy-ethoxy)-indole-1-carboxylic acid amide | 0.08 mmol, 45 mg | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@H]3C2)C(CC2=CN(C3=CC=C(C=C23)OCCO)C(=O)N)=O)C=CC1)F | C26H26ClFN4O5
reactant | Et3N | 0.41 mmol, 56 μL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.41 mmol, 31 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 0.41 mmol, 56 μL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.41 mmol, 31 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-(1-carbamoyl-3-{2-[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hex-2-yl]-2-oxo-ethyl}-1H-indol-5-yloxy)-ethyl ester | C(N)(=O)N1C=C(C2=CC(=CC=C12)OCCOS(=O)(=O)C)CC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O | C27H28ClFN4O7S
